US07622508B2
a. Preparation of N-cyclohexylmethyl-(2-oxoethyl)-carbamic acid benzyl ester
To a 100 mL flask was added N-cyclohexylmethyl-(2-oxoethyl)-carbamic acid benzyl ester bisulfite adduct (3.94 g, 1 mmol) and MeTHF (35 mL), followed by water (25 mL). The resulting slurry was stirred at room temperature for 5 min and 1 M NaOH (8 mL) was added. The reaction mixture was stirred at room temperature for 45 min. The layers were separated and the volume of the organic layer was reduced to ˜8 mL to provide the crude title intermediate.

reactant | N-cyclohexylmethyl-(2-oxoethyl)-carbamic acid benzyl ester bisulfite | 1 mmol, 3.94 g | S(O)(O)=O.C(C1=CC=CC=C1)OC(N(CC1CCCCC1)CC=O)=O
reactant | MeTHF | 35 mL | CC1CCCO1 | C5H10O
reactant | NaOH | 1 M, 8 mL | [OH-].[Na+]
solvent | water | 25 mL | O | H2O
product | N-cyclohexylmethyl-(2-oxoethyl)-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N(CC1CCCCC1)CC=O)=O | C17H23NO3
